US08314109B2
To a solution of 852 μL of aniline in 104 mL of toluene cooled to 0° C. are added dropwise 6.2 mL of a 2M solution of trimethylaluminium in toluene, followed by addition, at 20° C., of 1.5 g of ethyl 6-iodo-5-methyl(pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate. The reaction mixture is stirred for 2 hours at 20° C. The resulting mixture is cooled to 4° C. and 120 mL of saturated ammonium chloride solution are then added. After concentrating under reduced pressure, the residue is taken up in ethyl acetate and the organic phase is washed with water, dried over magnesium sulfate, filtered through Celite and evaporated to dryness under reduced pressure. The residue is triturated in methanol, filtered off and dried to give 1.15 g of 6-iodo-5-methyl-N-phenyl(pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxamide in the form of a yellow solid.

reactant | aniline | 852 μL | NC1=CC=CC=C1 | C6H7N
reactant | trimethylaluminium | C[Al](C)C
reactant | ethyl 6-iodo-5-methyl(pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate | 1.5 g | IC=1C=CC=2N(C1C)C(=C(N2)C(=O)OCC)C2=NC=CC=C2 | C16H14IN3O2
reactant | ammonium chloride | 120 mL | [Cl-].[NH4+]
solvent | toluene | 104 mL | C1(=CC=CC=C1)C | C7H8
product | 6-iodo-5-methyl-N-phenyl(pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxamide | 1.15 g | IC=1C=CC=2N(C1C)C(=C(N2)C(=O)NC2=CC=CC=C2)C2=NC=CC=C2 | C20H15IN4O
